US07501414B2
2,6-Difluoro-4-morpholin-4-yl-phenylamine
Concentrated hydrochloric acid (4.2 mL) was added slowly to a mixture of zinc dust (3.3 g) and 4-(3,5-difluoro-4-nitro-phenyl)-morpholine (2.49 g) in tetrahydrofuran (40 mL) cooled to 0° C. The reaction mixture was then stirred for 1 hour at 0° C. and 2 hours at 25° C. The reaction mixture was filtered through Celite (10 g), concentrated in vacuo and purified by flash chromatography to furnish 1.96 g (90% yield) of the title compound as a white solid. GC-MS (m/z) 214 (M+); tR=5.83. 1H NMR (500 MHz, DMSO-d6): 2.94 (t, 4H), 3.69 (t, 4H), 4.53 (s, 2H), 6.57 (m, 2H).

reactant | hydrochloric acid | 4.2 mL | Cl | ClH
reactant | 4-(3,5-difluoro-4-nitro-phenyl)-morpholine | 2.49 g | FC=1C=C(C=C(C1[N+](=O)[O-])F)N1CCOCC1 | C10H10F2N2O3
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | zinc | 3.3 g | [Zn] | Zn
product | 2,6-Difluoro-4-morpholin-4-yl-phenylamine | 1.96 g, 90% yield | FC1=C(C(=CC(=C1)N1CCOCC1)F)N | C10H12F2N2O
